US08802695B2
(R)—N-(3-chloro-1-cyclopropyl-1H-pyrrolo[3,2-c]pyridin-6-yl)-4-(1,2-dihydroxypropan-2-yl)benzamide
In a 100 mL round bottom flask was added (R)—N-(1-cyclopropyl-1H-pyrrolo[3,2-c]pyridin-6-yl)-4-(1,2-dihydroxypropan-2-yl)benzamide (200 mg, 0.57 mmol) in N,N-dimethylformamide (2.8 mL) to give a light yellow solution. This was followed by addition of N-chlorosuccinimide (76 mg, 0.57 mmol) at room temperature and the mixture was heated to 60° C. After 4 h, another 0.1 eq of N-chlorosuccinimide was added and the mixture was heated for another hour. The mixture was directly loaded onto a silica gel column, eluting with 20-70% EtOAc in hexanes for purification. Product-containing fractions were combined and a pinkish solid was formed upon evaporation of solvents. The solid was collected and washed with 5 ml EtOAc to give the title compound (23, 71 mg, 32%) as a light pink product. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.99-1.06 (m, 2H) 1.10 (dd, J=7.07, 4.55 Hz, 2H) 1.43 (s, 3H) 3.42-3.54 (m, 3H) 4.72 (br. s., 1H) 5.00 (s, 1H) 7.56-7.62 (m, 3H) 8.02 (d, J=8.59 Hz, 2H) 8.52 (d, J=0.76 Hz, 1H) 8.56-8.60 (m, 1H) 10.64 (s, 1H); ESI-MS: m/z 386 (M+H)+.

reactant | (R)—N-(1-cyclopropyl-1H-pyrrolo[3,2-c]pyridin-6-yl)-4-(1,2-dihydroxypropan-2-yl)benzamide | 0.57 mmol, 200 mg | C1(CC1)N1C=CC=2C=NC(=CC21)NC(C2=CC=C(C=C2)[C@@](CO)(C)O)=O | C20H21N3O3
reactant | N-chlorosuccinimide | 0.57 mmol, 76 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-chlorosuccinimide | 0.1 eq | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | N,N-dimethylformamide | 2.8 mL | CN(C=O)C | C3H7NO
product | (R)—N-(3-chloro-1-cyclopropyl-1H-pyrrolo[3,2-c]pyridin-6-yl)-4-(1,2-dihydroxypropan-2-yl)benzamide | 71 mg, 32% | ClC1=CN(C2=C1C=NC(=C2)NC(C2=CC=C(C=C2)[C@@](CO)(C)O)=O)C2CC2 | C20H20ClN3O3
